US07960395B2
e) (2R)-2-[(2-Amino-5-{[(1S)-1-(3-fluoropyridin-2-yl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol
The title compound was prepared using General method A starting from (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol (348 mg, 1.16 mmol) and 2-((R)-1-chloroethyl)-3-fluoro-pyridine (240 mg, 1.5 mmol). Purification by flash column chromatography (eluent DCM: methanol gradient) resulted in 190 mg (47% yield) of the title compound with a diastereomeric excess of 60%.

reactant | (2R)-2-[(2-amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 1.16 mmol, 348 mg | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S)N1 | C11H17N5OS2
reactant | 2-((R)-1-chloroethyl)-3-fluoro-pyridine | 1.5 mmol, 240 mg | Cl[C@H](C)C1=NC=CC=C1F | C7H7ClFN
product | (2R)-2-[(2-Amino-5-{[(1S)-1-(3-fluoropyridin-2-yl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | 190 mg, 47% yield | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)C)S[C@@H](C)C2=NC=CC=C2F)N1 | C18H23FN6OS2
